US09403798B2
6-(Chloromethyl)benzo[d]thiazole
To a dichloromethane solution (1.2 mL) of benzo[d]thiazol-6-yl-methanol (60 mg, 0.36 mmol), thionyl chloride (53 μL) was added at room temperature and the resultant solution was stirred for 1 day. After completion of the reaction, the reaction solution was concentrated under reduced pressure to obtain a crude product of the title compound.

reactant | benzo[d]thiazol-6-yl-methanol | 0.36 mmol, 60 mg | S1C=NC2=C1C=C(C=C2)CO | C8H7NOS
reactant | thionyl chloride | 53 μL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 1.2 mL | ClCCl | CH2Cl2
product | 6-(Chloromethyl)benzo[d]thiazole | ClCC1=CC2=C(N=CS2)C=C1 | C8H6ClNS
